US07687490B2
b) N-t-Butyl-N-ethylaminocarbonyloxymethyl (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate
In the same manner as in step b) in Example 125, 273 mg of the title compound was prepared from 180 mg of chloromethyl N-t-butyl-N-ethylcarbamate and 300 mg of sodium (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate.

reactant | chloromethyl N-t-butyl-N-ethylcarbamate | 180 mg | C(C)(C)(C)N(C(OCCl)=O)CC | C8H16ClNO2
reactant | sodium (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate | 300 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S\C=C/C2=C(N=CS2)CO)C(=O)[O-])C1=O.[Na+]
product | N-t-Butyl-N-ethylaminocarbonyloxymethyl (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate | 273 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S\C=C/C2=C(N=CS2)CO)C(=O)OCOC(=O)N(CC)C(C)(C)C)C1=O | C24H33N3O7S2
